* gnetlist -g spice-sdb -o filter.net filter.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*vvvvvvvv  Included SPICE model from ./2n3904.mod vvvvvvvv
.model 2N3904   NPN(Is=6.734f Xti=3 Eg=1.11 Vaf=74.03 Bf=416.4 Ne=1.259
+               Ise=6.734f Ikf=66.78m Xtb=1.5 Br=.7371 Nc=2 Isc=0 Ikr=0 Rc=1
+               Cjc=3.638p Mjc=.3085 Vjc=.75 Fc=.5 Cje=4.493p Mje=.2593 Vje=.75
+               Tr=239.5n Tf=301.2p Itf=.4 Vtf=4 Xtf=2 Rb=10)
*               Fairchild        pid=23          case=TO92
*               88-09-08 bam    creation

*^^^^^^^^  End of included SPICE model from ./2n3904.mod ^^^^^^^^
*
*==============  Begin SPICE netlist of main design ============
.INCLUDE ./simulation.cmd
.OPTIONS TEMP=25 LIST
R5 3 5 1  
R4 8 7 0.1  
V2 6 0 2
V1 0 4 DC 1 AC 0.5
C4 3 2 10p  
C1 4 1 10n  
C3 7 2 100p  
C2 1 8 10p  
L2 1 7 10n 
R3 2 6 22k  
R2 0 1 56k  
R1 1 6 150k  
L1 5 4 1u 
Q1 2 1 3 2N3904
.end
